US07842685B2
A mixture of 4-(benzyloxy)-3,5-dimethylbenzoic acid (238.0 mg, 929 μmol) and thionyl chloride (2.5 mL, 34.25 mmol) was heated at 70° C. for 1 h and then concentrated in vacuo. 3-Amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione (225 mg, 0.929 mmol) was added to the residue, and the resulting mixture was and heated in toluene (9.0 mL) at 100° C. for 10 min. (±)-10-Camphorsulfonic acid (194 mg, 836 μmol) was subsequently added, and the resulting mixture was heated at 100° C. for 30 min. The reaction solution was then cooled to 25° C. and concentrated onto silica gel. Chromatographic purification (silica gel, 0-40% ethyl ether/hexanes) provided 2-(4-(benzyloxy)-3,5-dimethylphenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine as a white solid. MS (ESI) m/z: Calculated: 462.2; Observed: 463.2 (M++1).

reactant | 4-(benzyloxy)-3,5-dimethylbenzoic acid | 929 μmol, 238.0 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1C)C | C16H16O3
reactant | thionyl chloride | 34.25 mmol, 2.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-Amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione | 0.929 mmol, 225 mg | NC=1C(NC(=CC1)C1(CC1)C1=CC=CC=C1)=S | C14H14N2S
reactant | (±)-10-Camphorsulfonic acid | 836 μmol, 194 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 9.0 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-(benzyloxy)-3,5-dimethylphenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C | C30H26N2OS
